US20010007903A1
To a solution of potassium t-butoxide (383 g) in DMF (3.5 L) was added 4-(methoxycarbonyl)pyrazole (360 g) portionwise under ice-cooling. After stirring for 20 minutes, trityl chloride (794 g) was added gradually while the mixture was maintained at a temperature not exceeding 20° C. This reaction mixture was poured into water-ethyl acetate (water 14 L/ethyl acetate 28 L) . The organic layer was seperated, washed serially with 2 portions of water (7 L each) and 20% sodium chloride solution (7 L), and dried over magnesium sulfate. The solvent was then distilled off to provide 4-methoxycarbonyl-1-(trityl)pyrazole (1021 g).

reactant | potassium t-butoxide | 383 g | CC(C)([O-])C.[K+]
reactant | 4-(methoxycarbonyl)pyrazole | 360 g | COC(=O)C=1C=NNC1 | C5H6N2O2
reactant | trityl chloride | 794 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water ethyl acetate | 14 L | O.C(C)(=O)OCC
solvent | DMF | 3.5 L | CN(C)C=O | C3H7NO
product | 4-methoxycarbonyl-1-(trityl)pyrazole | 1021 g | COC(=O)C=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H20N2O2
